US07361663B2
(R)-Pyrrolidin-2-yl-acetic acid methyl ester hydrochloride (0.78 g, 4.4 mmol) is alkylated with 5-Iodo-2-(2-methoxyethoxymethoxy)benzyl bromide (1.5 g, 3.7 mmol) as described in EXAMPLE 12B to yield 3-[5-Iodo-2-(2-methoxyethoxymethoxy)phenyl]-2-pyrrolidin-2-yl propionic acid methyl ester. This material is treated with triethylamine (0.52 mL, 3.74 mmol) and Boc anhydride (0.82 g, 3.74 mmol) in methylene chloride (25 mL) at 0° C. The reaction mixture is warmed to ambient temperature over 3 h. The solvent is removed under vacuo and the residue is partitioned between ethyl acetate and bicarbonate solution. The organic layer is separated, washed with water and brine, dried over MgSO4 and concentrated to a tan oil. This material is chromatographed (25% ethyl acetate/hexane) to give the title compound as an oil (1.66 g, 3.6 mmol). 1H NMR (CDCl3, 300 MHz) □ 7.43-7.38(m, 2H), 6.88(d, 1H), 5.23(s, 2H), 4.23-4.06(m, 1H), 3.83-3.76(m, 2H), 3.57(s, 3H), 3.56-3.48(m, 2H), 3.37(s, 3H), 3.36-3.26(m, 3H), 2.94-2.78(m, 1H), 2.76-2.61(m, 1H), 2.03-1.75(m, 4H), 1.45(s, 9H).

reactant | (R)-Pyrrolidin-2-yl-acetic acid methyl ester hydrochloride | 4.4 mmol, 0.78 g | Cl.COC(C[C@@H]1NCCC1)=O
reactant | 5-Iodo-2-(2-methoxyethoxymethoxy)benzyl bromide | 3.7 mmol, 1.5 g | IC=1C=CC(=C(CBr)C1)OCOCCOC | C11H14BrIO3
product | 3-[5-Iodo-2-(2-methoxyethoxymethoxy)phenyl]-2-pyrrolidin-2-yl propionic acid methyl ester | COC(C(CC1=C(C=CC(=C1)I)OCOCCOC)C1NCCC1)=O | C18H26INO5
